US07820823B2
1-Cyclopropyl-6-fluoro-7-(4-{2-fluoro-4-((5S)-5-(methyl-sulfanylthiocarbonylamino-methyl)-2-oxo-oxazolidin-3-yl]-phenyl}-piperazin-1-yl)-4-oxo-1,4dihydro-[1,8]naphthyridine-3carboxylic Acid
A mixture of 100 mg [(5S)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-dithiocarbamic acid methyl ester (0.26 mmol), 73.51 mg 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.26 mmol) 108 μl triethylamine (0.78 mmol) and 65 μl trimethyl-chlorsilane (0.52 mmol), in acetonitrile was stirred in a micro wave oven for 8 min at 150° C. The solution was decanted from sticky solid, evaporated and the residue digested in water. The solid was filtered and the purified by chromatography using a 9/1 dichloromethane/methanol mixture with 1% acetic acid.

reactant | [(5S)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-dithiocarbamic acid methyl ester | 0.26 mmol, 100 mg | CSC(NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCNCC1)F)=S | C16H21FN4O2S2
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.26 mmol, 108 μl, 73.51 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | trimethyl-chlorsilane | 0.52 mmol, 65 μl | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Cyclopropyl-6-fluoro-7-(4-{2-fluoro-4-((5S)-5-(methyl-sulfanylthiocarbonylamino-methyl)-2-oxo-oxazolidin-3-yl]-phenyl}-piperazin-1-yl)-4-oxo-1,4dihydro-[1,8]naphthyridine-3carboxylic Acid | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@@H](C1)C(NC(=S)S)C)=O)F)F)=O)C(=O)O | C28H28F2N6O5S2
